2156-09-29 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2156-9-28**] 02:00 PM
 COLONOSCOPY - At [**2156-9-28**] 02:20 PM
 NUCLEAR MEDICINE - At [**2156-9-28**] 04:30 PM
 tagged RBC study
   - GI scoped from above and below: no active bleeding; concern that
   patient may be bleeding in small intestine that we cannot image.
   - Did a tagged rbc scan and results are pending
   - Gen [**Doctor First Name **] is following
   - stable Hcts all night
   - GI wants to do a capsule study in outpatient
   - c/o abdominal discomfort/cramping that was relieved with burping--
   given zofran, couldn
t take maalox b/c still nauseated.
   - baseline Hcts: [**4-17**]: 24.3; [**5-18**]: 28.4; [**5-18**]: 30.9; [**2156-6-16**]: 40.5
   - last unit of transfused pRBCs was yesterday late morning (3 units
   total since presentation)
   - this AM, given 1 liter LR b/c of low UOP and a bit tachy...
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2156-9-28**] 02:00 PM
   Fentanyl - [**2156-9-28**] 02:00 PM
   Pantoprazole (Protonix) - [**2156-9-28**] 03:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-29**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 107 (87 - 108) bpm
   BP: 132/80(91) {102/61(71) - 137/91(102)} mmHg
   RR: 10 (10 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,050 mL
                                                                    686 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,520 mL
                                                                    446 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,300 mL
                                                                    100 mL
   Urine:
                                                                    800 mL
                                                                    100 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  2,750 mL
                                                                    586 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   GENERAL: Pleasant, well appearing male in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. MM dry. OP clear.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM.
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact.
   Labs / Radiology
   167 K/uL
   13.3 g/dL
   118 mg/dL
   0.8 mg/dL
   21 mEq/L
   4.0 mEq/L
   14 mg/dL
   108 mEq/L
   140 mEq/L
   39.6 %
   10.0 K/uL
        [image002.jpg]
                            [**2156-9-28**]  03:58 AM
                            [**2156-9-28**]  08:40 AM
                            [**2156-9-28**]  11:46 AM
                            [**2156-9-28**]  03:00 PM
                            [**2156-9-28**]  07:47 PM
                            [**2156-9-29**]  04:02 AM
   WBC
   6.3
   10.0
   Hct
   32.0
   29.9
   32.0
   33.5
   34.7
   39.6
   Plt
   182
   167
   Cr
   0.7
   0.8
   Glucose
   118
   118
   Other labs: PT / PTT / INR:12.9/22.8/1.1, Ca++:9.0 mg/dL, Mg++:1.8
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   39M with history of UC s/p subtotal colectomy here with BRBPR.
   .
   #. GI Bleed
   Received 3 units pRBCs total (last unit yesterday late AM) and has
   persistent mild tachycardia, bolused 1L LR this AM.  GI team unable to
   find a bleed on upper EGD or flex sig, likely has bleed in small
   intestine.  Tagged RBC scan done, pending results.
   - f/u tagged RBC scan results
   - Abd/Pelvic CT
   - Appreciate Gen [**Doctor First Name **] Recs
   - IVFs as needed
   - Capsule Endoscopy as an outpatient
   - Maintain 2 large bore PIVs
   - Has 2 active T+C units of pRBCs
   - Monitor on tele
   - Repeat orthostatics
   - Hct q6h
   - continue IV PPI for now
   - Avoid NSAIDs
   .
   #. Ulcerative colitis: S/p subtotal colectomy and ileoanal pull-through
   with J-pouch. Not on any chronic medications.
   - Await flex sig and treat per results as above
   .
   #. Eosinophilic esophagitis: Seen by Dr. [**Last Name (STitle) 5664**] in allergy clinic. Was
   to be started on a PPI trial last month, but has not taken this yet.
   - IV PPI as above.
   .
   #. Depression:
   - Resume amitriptyline if nausea has subsided
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2156-9-28**] 10:15 PM
   18 Gauge - [**2156-9-28**] 10:15 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:   PPI (for GI Bleed)
   VAP:
   Comments:
   Communication:  Comments:  Wife, [**Name (NI) 143**]
   [**Name (NI) 156**] status:  Full
   Disposition:  if Hcts remain stable, may be transferred to floor later
   this afternoon

2156-09-30 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: BRBPR
   24 Hour Events:
   - patient called out
   - still remains tachy despite large volumes IVF
5 L boluses of LR
   - advanced diet to clears
   - red cell scan negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-30**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 109 (98 - 128) bpm
   BP: 127/79(88) {116/65(82) - 161/95(109)} mmHg
   RR: 13 (11 - 22) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  7,140 mL
                                                                    480 mL
   PO:
                                                                  1,140 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  6,000 mL
   Blood products:
   Total out:
                                                                  2,090 mL
                                                                    925 mL
   Urine:
                                                                  1,750 mL
   NG:
   Stool:
                                                                    340 mL
                                                                    925 mL
   Drains:
   Balance:
                                                                  5,050 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   GENERAL: Pleasant, well appearing male in NAD
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. MM slightly dry. OP clear.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 4808**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM.
   EXTREMITIES: Non-edematous, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact.
   Labs / Radiology
   200 K/uL
   12.1 g/dL
   135 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.7 mEq/L
   13 mg/dL
   105 mEq/L
   140 mEq/L
   34.7 %
   10.2 K/uL
        [image002.jpg]
                            [**2156-9-28**]  03:58 AM
                            [**2156-9-28**]  08:40 AM
                            [**2156-9-28**]  11:46 AM
                            [**2156-9-28**]  03:00 PM
                            [**2156-9-28**]  07:47 PM
                            [**2156-9-29**]  04:02 AM
                            [**2156-9-29**]  11:51 AM
                            [**2156-9-30**]  03:41 AM
   WBC
   6.3
   10.0
   10.2
   Hct
   32.0
   29.9
   32.0
   33.5
   34.7
   39.6
   34.7
   34.7
   Plt
   182
   167
   200
   Cr
   0.7
   0.8
   0.9
   Glucose
   118
   118
   135
   Other labs: PT / PTT / INR:12.9/22.8/1.1, Ca++:8.8 mg/dL, Mg++:1.7
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   39M with history of UC s/p subtotal colectomy here with BRBPR.
   .
   #. GI Bleed w hx Ulcerative Colitic and s/p J-pouch:
   Received 3 units pRBCs total (last unit yesterday late AM) and has
   persistent mild tachycardia, bolused 1L LR this AM.  GI team unable to
   find a bleed on upper EGD or flex sig, likely has bleed in small
   intestine.  Tagged RBC scan done, not showing any signs of bleeding.
   Increased tachycardia to 130s when sitting or standing appearing
   orthostatic
   - IVFs prn and encourage PO intake to keep up with high output
   - Touch base with GI regarding high stool output
   - Restart home loperamide
   - Capsule Endoscopy as an outpatient
   - Has 2 active T+C units of pRBCs
   - Monitor on tele
   - Hct daily
   - continue PO PPI [**Hospital1 **]
   - Avoid NSAIDs
   .
   #. Eosinophilic esophagitis: Seen by Dr. [**Last Name (STitle) 5664**] in allergy clinic. Was
   to be started on a PPI trial last month, but has not taken this yet.
   - continue PO PPI
   .
   #. Depression:
   - Resume amitriptyline when nausea subsides
   - Ativan prn for agitation
   ICU Care
   Nutrition: Clear Liquids
Advance diet
   Glycemic Control:
   Lines:
   20G [**2156-9-29**]
   Prophylaxis:
   DVT: pneumoboots, walking
   Stress ulcer:   PPI (for GI Bleed)
   VAP:
   Comments:
   Communication:  Comments:  Wife, [**Name (NI) 143**]
   [**Name (NI) 156**] status:  Full
   Disposition:  Pt. called out